US09227962B2
To a solution of 2-oxoindoline-5-carboxylic acid (1.3 g, 7.3 mmol) in DMF (50 ml) was added iPr2NEt (3.8 ml, 22 mmol), HOBt (1.2 g, 8.8 mmol), WSCI (1.7 g, 8.8 mmol) and 2-amino-1-phenylethanone hydrochloride (1.3 g, 7.3 mmol). The reaction mixture was stirred for 2 h at room temperature. The mixture was poured into H2O and EtOAc. The resulting precipitate was removed by filtration, and the filtrate was separated. The organic layer was washed with sat. NaHCO3 solution, sat. NH4Cl solution and brine, and then dried over Na2SO4. The solvent was evaporated and the residue (0.73 g) was used for the next reaction without further purification. Sulfuric acid (5 ml) was added to the residue, and the mixture was heated for 2 h at 100° C. Ice was added, and the mixture was extracted with EtOAc. The organic layer was washed with H2O and brine, dried over Na2SO4 and evaporated. The residue was crystallized from EtOH to afford 5-(5-phenyloxazol-2-yl)indolin-2-one (0.27 g, 13%).

reactant | 2-oxoindoline-5-carboxylic acid | 7.3 mmol, 1.3 g | O=C1NC2=CC=C(C=C2C1)C(=O)O | C9H7NO3
reactant | iPr2NEt | 22 mmol, 3.8 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | HOBt | 8.8 mmol, 1.2 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 2-amino-1-phenylethanone hydrochloride | 7.3 mmol, 1.3 g | Cl.NCC(=O)C1=CC=CC=C1
reactant | Sulfuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | H2O | O | H2O
product | 5-(5-phenyloxazol-2-yl)indolin-2-one | 0.27 g, 13% | C1(=CC=CC=C1)C1=CN=C(O1)C=1C=C2CC(NC2=CC1)=O | C17H12N2O2
